US04052514
A mixture of 4-acetyl-2,2',4'-trifluorobiphenyl (4.4 g., 17.6 m.moles), sulphur (1 g.) and morpholine (5 ml.) was stirred under reflux for 16 hours to give the thiomorpholide. After cooling, and the addition of acetic acid (glacial, 25 ml.), concentrated sulphuric acid (4 ml.) and water (10 ml.) the mixture was stirred and refluxed for 24 hours. Ice-water was added to precipitate a crude solid. This was taken up in ether and back-extracted with aqueous potassium carbonate. The extracts were washed with ether, acidified, and re-extracted with ether. Evaporation gave 4.2 g. of crude 2,2',4'-trifluoro-4-biphenylylacetic acid. This was then mixed with absolute alcohol (65 ml.) and concentrated sulphuric acid (3 ml.) and the mixture refluxed overnight. Excess alcohol was distilled off and the residue diluted with water (100 ml.). The product was isolated with ether, washed with aqueous sodium bicarbonate, dried, evaporated and distilled (b.p. 130°-136°/0.4 mm.) to give 3.2 g. of pale yellow oil which solidified on standing. This was recrystallised from 40-60 petroleum ether to give ethyl 2,2',4'-trifluoro-4-biphenylylacetate having a m.p. of 50°-52° C.

reactant | 4-acetyl-2,2',4'-trifluorobiphenyl | 4.4 g | C(C)(=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)F)F)F | C14H9F3O
reactant | sulphur | 1 g | [S] | S
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
reactant | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,2',4'-trifluoro-4-biphenylylacetic acid | FC1=C(C=CC(=C1)CC(=O)O)C1=C(C=C(C=C1)F)F | C14H9F3O2
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | ethyl 2,2',4'-trifluoro-4-biphenylylacetate | FC1=C(C=CC(=C1)CC(=O)OCC)C1=C(C=C(C=C1)F)F | C16H13F3O2
